US08404848B2
Ethyl 6-isopropylimidazo[1,2-a]pyridine-2-carboxylate is prepared by condensing 2-amino-5-isopropylpyridine (PCT Int. Appl. WO 2005028444) with ethyl 3-bromopyruvate according to the method described by J. G. Lombardino in J. Org. Chem. (1965), 30(7), 2403.

reactant | 2-amino-5-isopropylpyridine | NC1=NC=C(C=C1)C(C)C | C8H12N2
reactant | ethyl 3-bromopyruvate | BrCC(C(=O)OCC)=O | C5H7BrO3
product | Ethyl 6-isopropylimidazo[1,2-a]pyridine-2-carboxylate | C(C)(C)C=1C=CC=2N(C1)C=C(N2)C(=O)OCC | C13H16N2O2
